US08193361B2
A stirred solution of 2,7-dihydroxynaphthylene (4.8 g) in acetone (50 ml) containing anhydrous potassium carbonate (4.08 g) and benzyl bromide (5.13 g0 was heated to refax for 4 hours, cooled to ambient temperature then stored for 18 hours. The mixture was filtered and the filtrate evaporated under reduced pressure to give a pale green solid that was fractionated by chromatography (silica; hexane/ethyl acetate 95:5 to 1:1 by volume) to give 2-benzyloxynaphth-7-ol, 1.63 g, as a cream coloured solid, m.p. 152-154° C.

reactant | potassium carbonate | 4.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-benzyloxynaphth-7-ol | C(C1=CC=CC=C1)OC1=CC2=CC(=CC=C2C=C1)O | C17H14O2
